US04967006
Reductive Methylation of Iminobispropionitrile
A 300 cc Hastelloy C autoclave was charged with 10.0 g of 5% palladium on carbon catalyst (50 wt % water wet). The reactor was flushed several times with nitrogen and then hydrogen. Then 123 g of crude IBPN obtained as the distillation residue in Example 1 was pumped into the autoclave. The temperature of the reactor contents was raised to 95°C. and hydrogen was added to provide a pressure of 115 psig. Formaldehyde (as a 55 wt % solution in methanol) was then admitted to the autoclave at a rate of 0.2 ml/min until a total of 66.9 g had been added. The mixture was allowed to react for 3.5 hours at which time analysis by gas chromatography/mass spectroscopy revealed that the IBPN had been completely converted to methyliminobispropionitrile (MIBPN). The reactor contents containing the MIBPN were then cooled and filtered and the methanol and water were removed in vacuo to give a clear light yellow liquid. Little to no reduction of the nitrile to the amine occurred under these conditions as evidenced by the lack of terminal N-methyl derivatives in the GC mass spectrum.

reactant | hydrogen | [H][H] | H2
reactant | Formaldehyde | C=O | CH2O
reactant | methyliminobispropionitrile | CN(CCC#N)CCC#N | C7H11N3
catalyst | palladium on carbon | 10.0 g | [Pd] | Pd
solvent | methanol | CO | CH4O
catalyst | Hastelloy C | 300 cc | [Cr].[Co]
product | Iminobispropionitrile | N(CCC#N)CCC#N | C6H9N3
